US05061808
A solution of 3 g (7 mmol) of a mixture of [1S-[1R*,2R*(R*),4(R*)]] and [1S-[1R*,2R*(S*),4(R*)]][4-[(2-methylbutyl)amino]-1-(2-methylpropyl)-4-oxo-2-[(tetrahydro-2H-pyran-2-yl)oxy] butyl]carbamic acid, 1,1-dimethylethyl ester in 75 ml of dichloromethane is treated with 25 ml of methanolic hydrogen chloride solution and stirred at room temperature for 2 hours. The mixture is evaporated and the resulting gum is partitioned between diethyl ether and 0.5N hydrochloric acid solution. The aqueous layer is separated, basified to pH 13 with a 2N solution of sodium hydroxide and extracted with diethyl ether (5×100 ml). The combined organic extracts are dried over magnesium sulfate and evaporated to give 1.64 g of [3S-[N(R*),3R*,4R*]]-4-amino-3-hydroxy-6-methyl-N(2-methylbutyl)-heptanamide; [α]D23 =-22.2° (C=1.07%, methanol). Reaction of [3S-[N(R*),3R*,4R*]]-4-amino-3-hydroxy-6-methyl -N(2-methylbutyl)-heptanamide with hydrogen chloride gas in the conventional manner affords [3S-[N(R*),3R*,4R*]]-4-amino-3-hydroxy-6-methyl-N(2-methylbutyl)-heptanamide, hydrochloride (2:3).

reactant | 4-amino-3-hydroxy-6-methyl -N(2-methylbutyl)-heptanamide | NC(C(CC(=O)NCC(CC)C)O)CC(C)C | C13H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-amino-3-hydroxy-6-methyl-N(2-methylbutyl)-heptanamide, hydrochloride | Cl.NC(C(CC(=O)NCC(CC)C)O)CC(C)C | InChI=1S/C13H28N2O2.ClH/c1-5-10(4)8-15-13(17)7-12(16)11(14)6-9(2)3;/h9-12,16H,5-8,14H2,1-4H3,(H,15,17);1H
